US07666879B2
A. 1-[4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-benzyl]-3-(3-trifluoromethyl-phenyl)-urea
Charge a 50 mL flask equipped with a magnetic stir bar, 4-(7-chloro-imidazo[1,2-a]pyridin-3-yl)-benzylamine (720 mg, 2.79 mmol), di-isopropyl ethyl amine (723 mg, 0.93 mL, 5.6 mmol), and THF (28 mL). Purge the flask with N2, and add 3-trifluoromethylphenyl-isocyanate (1.04 g, 0.77 mL, 5.6 mmol) via syringe. Mix the reaction at room temperature for 24 hours. Evaporate the reaction in vacuo, and chromatograph the residue using SiO2 eluting with a gradient of 1% to 15% of 2 M NH3 in MeOH with the balance CH2Cl2. Evaporate the fractions containing the product under reduced pressure, and vacuum oven dry the resulting ivory solid at 40° C. to give the title compound 624 mg (50.3%). MS(ES), m/z 445.3 (M+1).

reactant | 4-(7-chloro-imidazo[1,2-a]pyridin-3-yl)-benzylamine | 2.79 mmol, 720 mg | ClC1=CC=2N(C=C1)C(=CN2)C2=CC=C(CN)C=C2 | C14H12ClN3
reactant | di-isopropyl ethyl amine | 5.6 mmol, 0.93 mL, 723 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-trifluoromethylphenyl-isocyanate | 5.6 mmol, 0.77 mL, 1.04 g | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | NH3 | 2 M | N | H3N
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | 1-[4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-benzyl]-3-(3-trifluoromethyl-phenyl)-urea | 624 mg, 50.3% | ClC1=CC=2N(C=C1)C(=CN2)C2=CC=C(CNC(=O)NC1=CC(=CC=C1)C(F)(F)F)C=C2 | C22H16ClF3N4O
